US06133303
Step 2: 6-[2-(1H-1-Imidazolyl)-1-phenylethoxy]-1,2,3.4-tetrahydro-1-naphthalenone
Following the procedure of Example 78, Step 3, but using 2.63 g (14.0 mmol) of 2-(1H-1-imidazolyl)-1-phenyl-1-ethanol and 2.0 g (12.3 mmol) of 6-[2-(1H-1-imidazolyl)ethoxy]-1,2,3,4-tetrahydro-1-naphthalenone, there was obtained 3.83 g (93.6% yield) of the product as a glass. The structure was confirmed by NMR and mass spectroscopy. MS m/z 333 (M+H+).

reactant | 2-(1H-1-imidazolyl)-1-phenyl-1-ethanol | 14.0 mmol, 2.63 g | N1(C=NC=C1)CC(O)C1=CC=CC=C1 | C11H12N2O
reactant | 6-[2-(1H-1-imidazolyl)ethoxy]-1,2,3,4-tetrahydro-1-naphthalenone | 12.3 mmol, 2.0 g | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C15H16N2O2
product | 6-[2-(1H-1-Imidazolyl)-1-phenylethoxy]-1,2,3.4-tetrahydro-1-naphthalenone | 3.83 g, 93.6% yield | N1(C=NC=C1)CC(OC=1C=C2CCCC(C2=CC1)=O)C1=CC=CC=C1 | C21H20N2O2
